US08492582B2
Trifluoroacetic acid (2 mL) was added to a methylene chloride (5 mL) solution of the obtained tert-butyl 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoate (0.027 g), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 0.023 g of 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoic acid as a white solid.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoate | 0.027 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1COCC1 | C28H29NO5
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-(tetrahydrofuran-3-yl)benzamido)-4-phenylbenzoic acid | 0.023 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1COCC1 | C24H21NO5
